US08624040B2
Synthesis of 5-(2,2-dimethylpropanoyl)-N-hydroxy-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxamide (Compound 26)
To a solution of HATU (104 mg, 0.274 mmol) and trimethylacetic acid (28 mg, 0.274 mmol) in DCM (2 mL) was added triethylamine (104 μL, 0.203 mmol). The reaction solution was stirred at room temperature for 30 min. A solution of ethyl 4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate (20 mg, 0.101 mmol; prepared as described in J. Med. Chem. 2006, 49(15):4623-4637) in DMF (0.5 mL) was added in one portion. The solution was then stirred at room temperature overnight. The solution was then diluted with DCM and washed with saturated aqueous NaHCO3. The aqueous layer was extracted with DCM twice, the combined organic phases were additionally washed with water, brine, dried over anhydrous MgSO4 and concentrated to afford an oil residue. To the material thus obtained was added methanol (2 mL), hydroxylamine hydrochloride (52.1 mg, 0.75 mmol), and potassium hydroxide (84.2 mg, 1.5 mmol). The reaction mixture was heated at 80° C. for 3 h, cooled to room temperature and the solvent removed in vacuo. The solid residue obtained was dissolved in DMSO (1.4 mL) and purified with Gilson prep-HPLC [282 nm, rt=5.2 (12 min), 15-40% MeCN—H2O] to afforded white solid (16.1 mg, 24%) as a white solid. LCMS: (FA) ES+ 283; 1H NMR (d6,DMSO, 400 MHz) δ 11.13 (s, 1 H), 9.08 (s, 1 H), 7.37 (s, 1 H), 4.56 (s, 2 H), 3.83 (t, J=5.8 Hz, 2 H), 2.83 (t, J=5.4 Hz, 2 H), 1.22 (s, 9 H).

reactant | HATU | 0.274 mmol, 104 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | trimethylacetic acid | 0.274 mmol, 28 mg | CC(C(=O)O)(C)C | C5H10O2
reactant | triethylamine | 0.203 mmol, 104 μL | C(C)N(CC)CC | C6H15N
reactant | ethyl 4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate | 0.101 mmol, 20 mg | S1C(=CC=2CNCCC21)C(=O)OCC | C10H13NO2S
reactant | hydroxylamine hydrochloride | 0.75 mmol, 52.1 mg | Cl.NO
reactant | potassium hydroxide | 1.5 mmol, 84.2 mg | [OH-].[K+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMSO | 1.4 mL | CS(=O)C | C2H6OS
solvent | methanol | 2 mL | CO | CH4O
product | 5-(2,2-dimethylpropanoyl)-N-hydroxy-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxamide | 16.1 mg, 24% | CC(C(=O)N1CC2=C(CC1)SC(=C2)C(=O)NO)(C)C | C13H18N2O3S
